US07227032B2
To a flask having an inner volume of 300 ml and equipped with a stirring device, a thermometer, a condenser and a gas inlet tube were charged 42.83 g (0.5 mol) of 3-methoxyacrylonitrile with a purity of 97% by weight and 125 ml of methanol, and the mixture was cooled to −10° C. under stirring. Then, the reaction solution was maintained to −10 to 0° C., and while feeding nitrosyl chloride generated by reacting 170.5 g (1.0 mol) of 41% by weight aqueous sodium nitrite solution and 320 ml (3.5 mol) of conc. hydrochloric acid (the above-mentioned method (2)) in a separate apparatus to the reaction solution, the resulting mixture was reacted at −10 to 0° C. for 3 hours and at room temperature for 2 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, the concentrate was washed in the order of n-hexane and toluene, dried under reduced pressure at 40° C. to obtain 61.6 g of 3,3-dimethoxy-2-hydroxyiminopropionitrile (Isolation yield: 80.1%) as a pale yellowish solid with a purity of 93.7% by weight (absolute calibration curve method by high performance liquid chromatography).

reactant | 3-methoxyacrylonitrile | 0.5 mol, 42.83 g | COC=CC#N | C4H5NO
reactant | nitrosyl chloride | N(=O)Cl | ClNO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 3.5 mol, 320 ml | Cl | ClH
reactant | methanol | 125 ml | CO | CH4O
product | 3,3-dimethoxy-2-hydroxyiminopropionitrile | 61.6 g, yield: 80.1% | COC(C(C#N)=NO)OC | C5H8N2O3
